US04971984
A solution of 3,5-dicarboethoxy-6-methyl-2-mercaptomethyl-4-(m-nitrophenyl)-1,4-dihydropyridine in MeOH (25 ml) is added with a 37% formaldehyde aqueous solution (6 ml, 79 mmol.). The obtained solution is refluxed for 1.5 hours. The solvent is evaporated under reduced pressure and the residue is dissolved in ethyl acetate (50 ml). The organic phase is washed (3×60 ml), separated, dried on Na2SD4, filtered and the solvent is evaporated under reduced pressure; the oily residue is crystallized from isopropyl ether, obtaining 3 g of 3,5-dicarboethoxy-4-(m-nitro-phenyl)-6-methyl-2-(hydroxymethylthiomethyl)-1,4-dihydropyridine, m.p. 113°-114° C.

reactant | 3,5-dicarboethoxy-6-methyl-2-mercaptomethyl-4-(m-nitrophenyl)-1,4-dihydropyridine | C(=O)(OCC)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)CS | C19H22N2O6S
reactant | formaldehyde | 79 mmol, 6 ml | C=O | CH2O
solvent | MeOH | 25 ml | CO | CH4O
product | 3,5-dicarboethoxy-4-(m-nitro-phenyl)-6-methyl-2-(hydroxymethylthiomethyl)-1,4-dihydropyridine | 3 g | C(=O)(OCC)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)CSCO | C20H24N2O7S
